US07960394B2
(2) Production of 6-amino-3-methyl-2-[3-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone:
3-Methyl-6-nitro-2-[3-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone (105 mg, 0.248 mmol) was dissolved in methanol (3 mL), and 10% palladium-carbon (26.4 mg, 0.0248 mmol) was added thereto and stirred in a hydrogen atmosphere at room temperature for 4 days. The reaction solution was filtered through Celite, the Celite was washed with ethyl acetate, and the mother liquid was concentrated. The residue was purified through silica gel column chromatography (chloroform/methanol=3/1) to obtain the intended compound (42.8 mg, 44%) as a yellow solid.

reactant | 3-Methyl-6-nitro-2-[3-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone | 0.248 mmol, 105 mg | CN1C(=NC2=CC=C(C=C2C1=O)[N+](=O)[O-])C1=CC(=CC=C1)OCCCN1CCCCC1 | C23H26N4O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 mL | CO | CH4O
catalyst | palladium-carbon | 0.0248 mmol, 26.4 mg | [C].[Pd]
product | 6-amino-3-methyl-2-[3-(3-piperidin-1-ylpropoxy)phenyl]-4(3H)-quinazolinone | 42.8 mg, 44% | NC=1C=C2C(N(C(=NC2=CC1)C1=CC(=CC=C1)OCCCN1CCCCC1)C)=O | C23H28N4O2
